* source ADC
E_U1         N01917 0 VALUE {LIMIT(V(0,N01900)*1E6,-5V,+5V)}
C_C1         N01900 N01917  12.8n IC=0 TC=0,0 
R_R1         N01900 N29993  20k TC=0,0 
E_U2         P 0 VALUE {LIMIT(V(VREF,N01917)*1E6,0V,+5V)}
V_V0         VREF 0 0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND CLK IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +500n 0
+  +500n 1
+ ENDREPEAT
X_CNTA         CLK RST_CNT N70073 Q0 Q1 Q2 Q3 VCC 0 CD4520B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNTB         0 RST_CNT Q3 Q4 Q5 Q6 Q7 VCC 0 CD4520B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V4         VCC 0 5
X_IC3          A0 A1 A2 A3 0 N18350 N17461 N18619 N80368 N17188 CD4072B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_U17D         S1 NS1 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         S2 NS2 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_IC2          NS0 NS2 P NS0 S1 NS2 NS2 S1 P N80856 N17461 N18350 CD4073B
+  PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U22A         N17188 T N1 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_IC4          M_UN0001 M_UN0002 M_UN0003 M_UN0004 A S2 NS1 S0 M_UN0005 N18619
+  CD4082B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U14C         S0 NS0 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_STATEBUFF          CLK N38287 0 0 N0 N1 N2 0 VCC VCC S0 S1 S2 M_UN0006
+  CD4076B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U11B         S1 N05072 I0 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9E         S1 RST_IN $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U12F         S0 N05072 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6B         S0 S1 N04762 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10B         S0 S1 I1 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         S0 N04842 RST_CNT $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9B         S1 N66545 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7A         N04762 WR $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_AND8          Q0 Q1 Q2 Q3 Q7 Q6 Q5 Q4 N55721 A M_UN0007 M_UN0008 CD4068B
+  PARAMS: IO_LEVEL=0 MNTYMXDLY=0
U_DSTM5         STIM(1,0) $G_DPWR $G_DGND T IO_STM STIMULUS=TRIGGER
V_Vref         N33002 0 -5
V_Vin         N32959 0 5
X_IC9          N32959 N29993 N33002 N29993 0 0 N01900 N01917 I0 I1 0 RST_IN VCC
+  0 CD4066B
U_DSTM6         STIM(1,0) $G_DPWR $G_DGND N38287 IO_STM STIMULUS=RST
R_R2         N55721 0  10e6 TC=0,0 
X_U28E         S2 N66538 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U29A         N66545 N66538 N04842 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U30B         S1 N67294 N46973 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U31A         S0 S2 N67294 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U33         MEAS N69974 N70069 N70073 M_UN0009 $G_DPWR $G_DGND JKFF
X_U34B         P RST_IN N69586 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U35A         N46973 N69586 MEAS $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U36C         MEAS N70069 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U37C         CLK N69974 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_IC10          T S0 N73522 P S2 S1 M_UN0010 M_UN0011 M_UN0012 N74441 N74185
+  M_UN0013 CD4073B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U38C         N74185 N73522 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U39A         N768130 N74441 N2 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U40C         A N768130 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_IC11          NS1 N79541 N79143 NS1 NS1 NS2 NS1 NS0 A2 A3 A1 A0 CD4081B
+  PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U41C         A N79143 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U42C         T N79541 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U43B         N80856 N80368 N81702 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U44A         N81129 NS2 N81695 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U45C         T N81129 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U46A         NS2 NS0 N81492 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U46B         A N81492 N81688 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U47B         N81695 N81688 N81706 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U48B         N81706 N81702 N81713 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
** Floating/unmodeled pin fixups **
R__UC0001   M_UN0001  0   {1/GMIN}
R__UC0002   M_UN0002  0   {1/GMIN}
R__UC0003   M_UN0003  0   {1/GMIN}
R__UC0004   M_UN0004  0   {1/GMIN}
R__UC0005   M_UN0005  0   {1/GMIN}
R__UC0006   M_UN0006  0   {1/GMIN}
R__UC0007   M_UN0007  0   {1/GMIN}
R__UC0008   M_UN0008  0   {1/GMIN}
R__UC0009   M_UN0010  0   {1/GMIN}
R__UC0010   M_UN0011  0   {1/GMIN}
R__UC0011   M_UN0012  0   {1/GMIN}
R__UC0012   M_UN0013  0   {1/GMIN}
